US05872139
To 3-butoxy-4-[(5-nitro-benzofuran-2-ylmethyl)-amino]-cyclobut-3-ene-1,2-dione (0.25 g, 0.727 mmol), as prepared in Example 8, in ethanol (5 mL) was added tert-amylamine (0.53 mL, 4.54 mmol). The reaction was stirred at 70° C. for 18 hours and then at room temperature for 48 hours. The precipitated product was filtered and washed with ethyl acetate, diethyl ether, and petroleum ether to afford 0.22 g (85%) of 3-(1,1-dimethyl-propylamino)-4-[(5-nitro-benzofuran-2-ylmethyl)-amino]-cyclobut-3-ene-1,2-dione as an off-white solid: mp 283.5°-287.5° C. (dec); 1H NMR (DMSO-d6): δ 8.61 (d, 1H), 8.18 (dd, 1H), 7.96 (br t, 1H), 7.81 (d, 1H), 7.46 (br s, 1H), 7.07 (s, 1H), 4.99 (d, 2H), 1.66 (q, 2H), 1.30 (s, 6H), 0.82 (t, 3H). IR (KBr): 3220, 2950, 1800 cm-1 ; MS (m/z) 357 (M+).

reactant | 3-butoxy-4-[(5-nitro-benzofuran-2-ylmethyl)-amino]-cyclobut-3-ene-1,2-dione | 0.727 mmol, 0.25 g | C(CCC)OC=1C(C(C1NCC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-])=O)=O | C17H16N2O6
reactant | tert-amylamine | 4.54 mmol, 0.53 mL | C(C)(C)(CC)N | C5H13N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 3-(1,1-dimethyl-propylamino)-4-[(5-nitro-benzofuran-2-ylmethyl)-amino]-cyclobut-3-ene-1,2-dione | 0.22 g, 85% | CC(CC)(C)NC=1C(C(C1NCC=1OC2=C(C1)C=C(C=C2)[N+](=O)[O-])=O)=O | C18H19N3O5
